US04283509
N-(3'-Hydroxy-2',2'-dimethylpropyl)-6,7-dihydro-5H-benzocycloheptene-8,9-dicarboxylic acid imide
21.4 g (0.1 mol) of 6,7-dihydro-5H-benzocycloheptene-8,9-dicarboxylic acid anhydride and 10.3 g (0.1 mol) of 2,2-dimethyl-3-aminopropanol are dissolved in 60 ml of toluene and the solution is refluxed for 1 hour, the water formed being separated off by means of a water separator downstream of the reaction vessel. After cooling to room temperature, the crystals which have precipitated out are filtered off. This yields 28.9 g (96.6% of theory) of N-(3'-hydroxy-2',2'-dimethylpropyl)-6,7-dihydro-5H-benzocycloheptene-8,9-dicarboxylic acid imide.

reactant | 6,7-dihydro-5H-benzocycloheptene-8,9-dicarboxylic acid anhydride | 0.1 mol, 21.4 g | C1=CC=CC2=C1C1=C(CCC2)C(=O)OC1=O | C13H10O3
reactant | 2,2-dimethyl-3-aminopropanol | 0.1 mol, 10.3 g | CC(CO)(CN)C | C5H13NO
reactant | water | O | H2O
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
product | N-(3'-Hydroxy-2',2'-dimethylpropyl)-6,7-dihydro-5H-benzocycloheptene-8,9-dicarboxylic acid imide | OCC(CN=C(O)C=1CCCC2=C(C1C(=O)O)C=CC=C2)(C)C | C18H23NO4
